US04891363
A solution of 0.51 ml of methanesulfonyl chloride dissolved in 5 ml of benzene was added dropwise to a solution of 2.067 g of dl-7-(trans-3-hexadecyloxytetrahydropyran-2-ylmethoxy)-1-heptanol (prepared as described in Preparation 55) and 1.83 ml of triethylamine dissolved in 15 ml of benzene, whilst ice-cooling. The reaction mixture was stirred at room temperature for 15 minutes, after which it was washed with water, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure, to give 2.406 g of crude dl-7-(trans-3-hexadecyloxytetrahydropyran-2-ylmethoxy)heptyl methanesulfonate as a viscous oil.

reactant | methanesulfonyl chloride | 0.51 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 7-(trans-3-hexadecyloxytetrahydropyran-2-ylmethoxy)-1-heptanol | C(CCCCCCCCCCCCCCC)O[C@H]1[C@@H](OCCC1)COCCCCCCCO | C29H58O4
reactant | triethylamine | 1.83 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 7-(trans-3-hexadecyloxytetrahydropyran-2-ylmethoxy)heptyl methanesulfonate | CS(=O)(=O)OCCCCCCCOC[C@@H]1OCCC[C@H]1OCCCCCCCCCCCCCCCC | C30H60O6S
